US08912210B2
Step B: (3S,5S)-3-Amino-5-(2,3-difluorophenyl)-1-[(2S)-3,3,3-trifluoro-2-hydroxypropyl]piperidin-2-one
A solution of tert-butyl {(3S,5S)-5-(2,3-difluorophenyl)-2-oxo-1-[(2S)-3,3,3-trifluoro-2-hydroxypropyl]piperidin-3-yl}carbamate (39 mg, 0.089 mmol) in ethyl acetate (5 mL), pre-cooled to 0° C. was sparged with HCl gas for ˜1 min. The ice-bath was removed and the acidic solution was allowed to warm to 23° C. as stirring was continued for 2 h. The mixture was then concentrated to dryness to afford the title compound as a hydrochloride salt. MS: m/z=339.1 (M+1).

reactant | tert-butyl {(3S,5S)-5-(2,3-difluorophenyl)-2-oxo-1-[(2S)-3,3,3-trifluoro-2-hydroxypropyl]piperidin-3-yl}carbamate | 0.089 mmol, 39 mg | FC1=C(C=CC=C1F)[C@@H]1C[C@@H](C(N(C1)C[C@@H](C(F)(F)F)O)=O)NC(OC(C)(C)C)=O | C19H23F5N2O4
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (3S,5S)-3-Amino-5-(2,3-difluorophenyl)-1-[(2S)-3,3,3-trifluoro-2-hydroxypropyl]piperidin-2-one | N[C@@H]1C(N(C[C@@H](C1)C1=C(C(=CC=C1)F)F)C[C@@H](C(F)(F)F)O)=O | C14H15F5N2O2
